US05098929
Methyl magnesium iodide (3.0 ml, 3M solution in ether) was added to a solution of 5-cyclohexyl-2,2-dimethyl-5- formyl-1,3-dioxane (1.8 g.) in dry ether (50 ml.) The mixture was refluxed, with stirring, for two hours, cooled and poured into a mixture of 2N hydrochloric acid solution in ice. The aqueous mixture was extracted with ether. The ether extracts were washed with water, dried over anhydrous magnesium sulphate and evaporated in vacuo. 5-Cyclohexyl-2,2-dimethyl-5-(1-hydroxyethyl)-1,3-dioxane was obtained as a cream solid (1.5 g.)

reactant | Methyl magnesium iodide | 3M, 3.0 ml | C[Mg]I
reactant | 5-cyclohexyl-2,2-dimethyl-5- formyl-1,3-dioxane | 1.8 g | C1(CCCCC1)C1(COC(OC1)(C)C)C=O | C13H22O3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ether | 50 ml | CCOCC | C4H10O
product | 5-Cyclohexyl-2,2-dimethyl-5-(1-hydroxyethyl)-1,3-dioxane | C1(CCCCC1)C1(COC(OC1)(C)C)C(C)O | C14H26O3
